US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
12N Hydrochloric acid (5 ml) was added to ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-7-fluoro-6-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (400 mg), and the mixture was stirred for 4 hours while heating under reflux. After the reaction mixture was allowed to cool, solids deposited were collected by filtration, washed successively with water and ethanol and dried to obtain the title compound (250 mg) as a pale yellow powder.

reactant | Hydrochloric acid | 12N, 5 ml | Cl | ClH
reactant | ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-7-fluoro-6-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 400 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)F)C)=O)C(=O)OCC)F)F | C24H23F3N2O5
product | 1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 250 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)F)C)=O)C(=O)O)F)F | C17H11F3N2O3
